US05977117
NaOH/EtOH (0.5 M) was added to ethyl 2-(4-methoxyphenoxy)-6-[3,4-(methylenedioxy)phenoxy]benzoate (175 mg, 0.429 mmol) at 25° C. The mixture (solid and solution) was heated under reflux for 20 hr. until TLC indicated the absence of starting material and the formation of a polar material. The solvent was evaporated and the residue was diluted with H2O (7 ml, pH≈7.5) and extracted with EtOAc (2×7ml) to give 132 mg 2-(4-methoxyphenoxy)-6-[3,4-(methylenedioxy)phenoxy]benzoic acid as a yellow foam which was recrystallized from MeOH/H2O (twice) to give 102 mg of colorless needles, m.p. 164-165° C.

reactant | NaOH EtOH | 0.5 M | [OH-].[Na+].CCO
reactant | ethyl 2-(4-methoxyphenoxy)-6-[3,4-(methylenedioxy)phenoxy]benzoate | 0.429 mmol, 175 mg | COC1=CC=C(OC2=C(C(=O)OCC)C(=CC=C2)OC2=CC3=C(C=C2)OCO3)C=C1 | C23H20O7
product | 2-(4-methoxyphenoxy)-6-[3,4-(methylenedioxy)phenoxy]benzoic acid | 132 mg | COC1=CC=C(OC2=C(C(=O)O)C(=CC=C2)OC2=CC3=C(C=C2)OCO3)C=C1 | C21H16O7
